US06562989B2
4-methyloxycarbonyl-4′-methoxy-1,1′-biphenyl (Table 15, Entry 6)
Methyl 4-chlorobenzoate (171 mg, 1.00 mmol) reacted with 4-methoxyphenylboronic acid (200 mg, 1.31 mmol) using 1/2 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and KF (180 mg, 3.10 mmol) in THF at 100° C. for 4 h to give the title compound (210 mg, 89%) as a white solid: 1H-NMR (500 MHz, CDCl3): δ 8.09 (d, 2H, J=8.35 Hz), 7.63 (d, 2H, J=8.30 Hz), 7.59 (d, 2H, J=8.71 Hz), 7.01 (d, 2H, J=8.73 Hz), 3.95 (s, 3H), 3.88 (s, 3H). 13C{1H}-NMR (100 MHz, CDCl3): δ 167.02, 159.77, 145.14, 132.32, 130.05, 128.31, 128.16, 126.40, 114.31, 55.32, 52.03. GC/MS (EI): m/z 242 (M+), 211, 139.

reactant | Methyl 4-chlorobenzoate | 1.00 mmol, 171 mg | ClC1=CC=C(C(=O)OC)C=C1 | C8H7ClO2
reactant | 4-methoxyphenylboronic acid | 1.31 mmol, 200 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | KF | 3.10 mmol, 180 mg | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-methyloxycarbonyl-4′-methoxy-1,1′-biphenyl | 210 mg, 89% | COC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C15H14O3
